US05972943
16-Aminohexadecanol
To a suspension of 0.65 g of 16-methoxymethoxyhexadecylamine in 40 ml of methanol was added 1 ml of conc. hydrochloric acid and the mixture was heated under reflux for one hour. The reaction solution was distilled under reduced pressure. The residue was diluted with a 1N aqueous solution of sodium hydroxide, extracted with chloroform, dried over anhydrous sodium sulfate and distilled under reduced pressure to afford the title compound as a colorless crystal.

reactant | 16-methoxymethoxyhexadecylamine | 0.65 g | COCOCCCCCCCCCCCCCCCCN | C18H39NO2
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 16-Aminohexadecanol | NCCCCCCCCCCCCCCCCO | C16H35NO
